US08030302B2
Ethyl 4,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carboxylate
A solution of (Z)-4-aminopent-3-en-2-one (20.0 g, 0.2 mol) in dry THF (20 mL) is added to a solution of ethyl cyanoacetate (22.6 g, 0.2 mol) and TEA (20.2 g, 0.2 mol) in dry THF (200 mL). The reaction mixture is heated at reflux for 56 hours and then concentrated. The residue is kept standing at RT for 5 hours and the precipitate is filtered and washed with EtOAc to afford the title compound (7.3 g, 19.9% yield). MS (m/z): 196.0 (M+H).

reactant | (Z)-4-aminopent-3-en-2-one | 0.2 mol, 20.0 g | N\C(=C/C(C)=O)\C | C5H9NO
reactant | ethyl cyanoacetate | 0.2 mol, 22.6 g | C(#N)CC(=O)OCC | C5H7NO2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | THF | 200 mL | C1CCOC1 | C4H8O
product | Ethyl 4,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carboxylate | 7.3 g, 19.9% yield | CC1=C(C(NC(=C1)C)=O)C(=O)OCC | C10H13NO3
